US07435823B2
Step (b) Preparation of 6-(2-methylaminopyridin-4-yloxy)-1-naphthoic acid
To melted methylamine hydrochloride (Aldrich, 73.7 g, 1090 mmol) at 235° C. (oil bath) was added 6-(2-chloropyridin-4-yloxy)-1-naphthoic acid (6.54 g, 21.8 mmol). The reaction mixture was stirred for 3 min and cooled to RT. The brownish solid was treated with EtOAc and water and stirred until all residue was either in solution or suspended. The precipitate was filtered off, washed with EtOAC and purified by silica gel chromatography using 0-100% of a 85:15:0.5 mixture of DCM:MeOH:AcOH. The product obtained was washed with water, filtered and dried under vacuum to give the title compound.

reactant | methylamine hydrochloride | 1090 mmol, 73.7 g | Cl.CN
reactant | 6-(2-chloropyridin-4-yloxy)-1-naphthoic acid | 21.8 mmol, 6.54 g | ClC1=NC=CC(=C1)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C16H10ClNO3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 6-(2-methylaminopyridin-4-yloxy)-1-naphthoic acid | CNC1=NC=CC(=C1)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C17H14N2O3
